US07399777B2
4-Iodomethyl-5-methyl-2-(4-(2-propyl)-phenyl)-oxazole
1.74 g of 4-Chloromethyl-5-methyl-2-(4-(2-propyl)-phenyl)-oxazole and 3 g of sodium iodide in 150 ml of acetone are heated under reflux for 2 hours. After the reaction mixture has been cooled, 300 ml of methyl tert-butyl ether are added, the mixture is washed three times with saturated Na2S2O3 solution and dried over MgSO4 and the solvents are then removed under reduced pressure. This gives 2.64 g of 4-iodomethyl-5-methyl-2-(4-(2-propyl)-phenyl)-oxazole as a yellowish solid. C14H16INO (341.19), MS(ESI): 342 (M+H+).

reactant | 4-Chloromethyl-5-methyl-2-(4-(2-propyl)-phenyl)-oxazole | 1.74 g | ClCC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C | C14H16ClNO
reactant | sodium iodide | 3 g | [I-].[Na+]
reactant | methyl tert-butyl ether | 300 ml | C(C)(C)(C)OC | C5H12O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 4-Iodomethyl-5-methyl-2-(4-(2-propyl)-phenyl)-oxazole | ICC=1N=C(OC1C)C1=CC=C(C=C1)C(C)C | C14H16INO
